US04298529
To a solution of ethyl 2-methoxyimino-3-oxo-butyrate (syn isomer, 200 g) in ethylene glycol (179 g) were added dried benzene (3 l) and p-toluenesulfonic acid (6 g), and the mixture was heated for 20 hours under reflux while removing water azeotropically. The reaction mixture was cooled to ambient temperature, washed with water, a saturated aqueous solution of sodium bicarbonade, water and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and then filtered. After the filtrate was evaporated, the residual oil was distilled under reduced pressure to give ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer), bp 89.5°-91° C./0.6 mmHg, in 85.5% yield.

reactant | ethyl 2-methoxyimino-3-oxo-butyrate | 200 g | CON=C(C(=O)OCC)C(C)=O | C7H11NO4
reactant | benzene | 3 l | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | 6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethylene glycol | 179 g | C(CO)O | C2H6O2
product | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | 85.5% yield | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
